US07109229B2
(a) 3-[1-(3-Hydroxypropyl)-1H-indol-3-yl]-4-(1H-indol-7-yl)-pyrrole-2,5-dione
A 1.0 M solution of KOtBu in THF (8.1 mL, 8.1 mmol) was added to a solution of 2-(1-3-hydroxypropyl-1H-indol-3-yl)-acetamide (586 mg, 2.52 mmol) and {1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl}-oxo-acetic acid methyl ester (770 mg, 2.31 mmol) in DMF (30 mL). The initially clear orange-red solution turned deep red over 15 min, and was then heated to 65 C. for 18 h. 1N HCl was added, the mixture stirred 8 h and then the volume was reduced to ˜20 mL. The residue was poured into EtOAc/0.1 N HCl and the aqueous layer was separated and extracted with EtOAc. The EtOAc solutions were combined and washed with water, saturated aq NaHCO3 and brine (3×), dried (MgSO4), filtered and concentrated onto SiO2. Flash chromatography (8:2 EtOAc:hexanes) afforded a red solid that was dried at 75° C. for overnight giving the title compound (454 mg, 51%) as a bright red solid. 1H NMR (400 MHz, DMSO-d6) 11.04 (s, 1H), 10.71 (s, 1H), 8.03 (s, 1H), 7.56–7.62 (m, 1H), 7.41 (d, J=8 Hz, 1H), 7.20 (dd, J=3, 3 Hz, 1H), 6.94–7.0 (m, 3H), 6.45 (dd, J=8, 8 Hz, 1H), 6.40–6.43 (m, 1H), 6.11 (d, J=8 Hz, 1H), 4.64 (t, J=5 Hz, 1H), 4.29 (t, J=7 Hz, 2H), 3.38 (s, 2H), 1.88 (m, 2H). MS (electrospray, m/z) 386.2 (M++1), 384.2 (M−−1). HRMS 386.1504 (M++1, calcd for C23H20N3O3 386.1505)

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 8.1 mmol, 8.1 mL | C1CCOC1 | C4H8O
reactant | 2-(1-3-hydroxypropyl-1H-indol-3-yl)-acetamide | 2.52 mmol, 586 mg | OCCCN1C=C(C2=CC=CC=C12)CC(=O)N | C13H16N2O2
reactant | {1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl}-oxo-acetic acid methyl ester | 2.31 mmol, 770 mg | COC(C(=O)C=1C=CC=C2C=CN(C12)COCC[Si](C)(C)C)=O | C17H23NO4Si
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 0.1 N | CCOC(=O)C | C4H8O2
product | 3-[1-(3-Hydroxypropyl)-1H-indol-3-yl]-4-(1H-indol-7-yl)-pyrrole-2,5-dione | 454 mg, 51% | OCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C=1C=CC=C2C=CNC12)=O)=O | C23H19N3O3
